US07071175B1
A mixture of cis-methanesulfonic acid 4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl ester (2.51 g, 8.6 mmol) and LiBr (2.24 g, 25.8 mmol) in dry acetone (20 mL) was refluxed overnight. The reaction mixture was allowed to cool to room temperature, filtered and concentrated. The residue was dissolved in CH2Cl2 and washed with water, dried and concentrated under reduced pressure to give of cis-(4bromomethyl-cyclopent-2-enyl)-carbamic acid tert-butyl ester (2.23 g, 94%).

reactant | cis-methanesulfonic acid 4-tert-butoxycarbonylamino-cyclopent-2-enylmethyl ester | 8.6 mmol, 2.51 g | C(C)(C)(C)OC(=O)N[C@H]1C=C[C@H](C1)COS(=O)(=O)C | C12H21NO5S
reactant | LiBr | 25.8 mmol, 2.24 g | [Li+].[Br-]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | cis-(4bromomethyl-cyclopent-2-enyl)-carbamic acid tert-butyl ester | 2.23 g, 94% | C(C)(C)(C)OC(N[C@@H]1C=C[C@@H](C1)CBr)=O | C11H18BrNO2
